US07498337B2
5-(2,6-difluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde
To a solution of 5-(2,6-difluorophenyl)-1H-pyrrole-3-carbaldehyde (420 mg) in tetrahydrofuran (42 mL) was added sodium hydride (60% in oil, 244 mg) at room temperature and the mixture was stirred for 30 min. 15-Crown-5 (1.34 g) was added dropwise and the mixture was stirred for 30 min. 3-Pyridylsulfonyl chloride hydrochloride (565 mg) was added, and the mixture was further stirred for 1 hr. The reaction mixture was diluted with saturated brine, and the mixture was extracted with ethyl acetate. The obtained extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=7:3→1:1), and crystallized from diisopropyl ether to give the title compound as colorless crystals (yield 590 mg, 84%).

reactant | 5-(2,6-difluorophenyl)-1H-pyrrole-3-carbaldehyde | 420 mg | FC1=C(C(=CC=C1)F)C1=CC(=CN1)C=O | C11H7F2NO
reactant | sodium hydride | 244 mg | [H-].[Na+]
reactant | 15-Crown-5 | 1.34 g | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | 3-Pyridylsulfonyl chloride hydrochloride | 565 mg | Cl.N1=CC(=CC=C1)S(=O)(=O)Cl
solvent | tetrahydrofuran | 42 mL | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 5-(2,6-difluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde | yield 590 mg, 84% | FC1=C(C(=CC=C1)F)C1=CC(=CN1S(=O)(=O)C=1C=NC=CC1)C=O | C16H10F2N2O3S
